US04294960
2-(2-Formamidothiazol-4-yl)-2-pentyloxyiminoacetic acid (syn isomer, 4.14 g.), 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (4.5 g.), N,N-dimethylformamide (1.41 g.), phosphoryl chloride (2.96 g.), tetrahydrofuran (72 ml.), acetone (15 ml.) and water (15 ml.) were treated in a similar manner to that of Example 15 -(1) to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-pentyloxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 8.1 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-pentyloxyiminoacetic acid | 4.14 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCCC | C11H15N3O4S
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 4.5 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | N,N-dimethylformamide | 1.41 g | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 2.96 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 15 ml | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 72 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-pentyloxyiminoacetamido]-3-cephem-4-carboxylate | 8.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCCC | C25H26N6O8S2
